US06821967B2
9-{4-[4-(5-chloro-quinoxalin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 5-chloro-2-piperazin-1-yl-quinoxaline Melting point: 74° C. C32H31ClF3N5O (M=594.08) Calc.: molecular peak (M+H)+: 594/596. Found: molecular peak (M+H)+: 594/596.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 5-chloro-2-piperazin-1-yl-quinoxaline | ClC1=C2N=CC(=NC2=CC=C1)N1CCNCC1 | C12H13ClN4
product | 9-{4-[4-(5-chloro-quinoxalin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=CC=CC(=C2N=C1)Cl)(F)F | C32H31ClF3N5O
